.subckt aoi21 in1 in2 in3 out vdd gnd
mp1 NANDout in1 vdd vdd P_18 w=0.49u l=0.18u
mp2 NANDout in2 vdd vdd P_18 w=0.49u l=0.18u
mp3 INVout NANDout vdd vdd P_18 w=0.49u l=0.18u
mp4 tempout INVout vdd vdd P_18 w=0.49u l=0.18u 
mp5 out in3 tempout vdd P_18 w=0.49u l=0.18u
mn1 tempout2 in1 gnd gnd N_18 w=0.49u l=0.18u
mn2 NANDout in2 tempout2 gnd N_18 w=0.49u l=0.18u
mn3 INVout NANDout gnd gnd N_18 w=0.49u l=0.18u
mn4 out INVout gnd gnd N_18 w=0.49u l=0.18u
mn5 out in3 gnd gnd N_18 w=0.49u l=0.18u
.ends